US05354502
252 g (1.95 mol) of 2,6-difluoroaniline and 170 g (2.15 mol) of anhydrous pyridine were dissolved in 780 cm3 of chloroform, and a solution of 328 g (2.05 mol) of bromine dissolved in 390 cm3 of chloroform was added dropwise for 2 hours on an ice water bath while stirring, after which it was stirred for 2 hours at room temperature. After washing the reaction solution with water, the chloroform was removed, the residue was distilled under reduced pressure (b. p. 100° C./30 mmHg), and the crystals obtained were recrystallized from hexane to obtain 340 g (1.63 mol) of 4-bromo-2,6-difluoroaniline.

reactant | 2,6-difluoroaniline | 1.95 mol, 252 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | pyridine | 2.15 mol, 170 g | N1=CC=CC=C1 | C5H5N
reactant | bromine | 2.05 mol, 328 g | BrBr | Br2
solvent | chloroform | 780 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 390 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2,6-difluoroaniline | 1.63 mol, 340 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
